US05840732
ii) Synthesis of 1-benzyloxymethoxy-3,3-dimethyl-5-pentanol
To a solution of 7.93 g (60 mmol) of 3,3-dimethyl-1,5-pentanediol and 10.45 ml (60 mmol) of diisopropylethylamine in 120 ml of dichloromethane, 8.35 ml (60 mmol) of benzylchloromethyl ether was added at room temperature, followed by stirring for 3 hours, after which saturated aqueous sodium hydrogen carbonate was added. The mixture was extracted with dichloromethane and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=2/1) to yield 5.50 g (36.3%, colorless oily substance) of the desired product.

reactant | 3,3-dimethyl-1,5-pentanediol | 60 mmol, 7.93 g | CC(CCO)(CCO)C | C7H16O2
reactant | diisopropylethylamine | 60 mmol, 10.45 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzylchloromethyl ether | 60 mmol, 8.35 ml | C(C1=CC=CC=C1)C(Cl)OC(CC1=CC=CC=C1)Cl | C16H16Cl2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 1-benzyloxymethoxy-3,3-dimethyl-5-pentanol | C(C1=CC=CC=C1)OCOCCC(CCO)(C)C | C15H24O3
